US07449467B2
Methyl (1R,4S)-4-[(tert-butoxycarbonyl)amino]-1-(1-hydroxy-1-methylethyl)cyclopent-2-ene-1-carboxylate
To a 1.00 M solution of lithium hexamethyldisilazide in tetrahydrofuran (45 mL) stirring at −78° C. was added a solution of methyl (1R,4S)-4-[(tert-butoxycarbonyl)amino]cyclopent-2-ene-1-carboxylate (5.0 g, 21 mmol) in tetrahydrofuran (40 mL). The resulting golden mixture was warmed to −28° C. to −23° C. (CCl4/dry ice) and stirred for 30 min. The reaction solution was cooled down to −78° C. and anhydrous acetone (1.8 mL, 25 mmol) was added. After the addition, the reaction mixture was kept in a CCl4/dry ice bath and allowed to warm to room temperature overnight. The dark solution was quenched with saturated NH4Cl and extracted with ether three times. The combined extracts were dried, filtered, concentrated. The crude residue was purified by flash column chromatography (EtOAc/Hexane) to yield the desired product (1.4 g, 22.6%).

reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | methyl (1R,4S)-4-[(tert-butoxycarbonyl)amino]cyclopent-2-ene-1-carboxylate | 21 mmol, 5.0 g | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@H](C1)C(=O)OC | C12H19NO4
reactant | CCl4 dry ice | C(Cl)(Cl)(Cl)Cl.C(=O)=O
reactant | acetone | 25 mmol, 1.8 mL | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | Methyl (1R,4S)-4-[(tert-butoxycarbonyl)amino]-1-(1-hydroxy-1-methylethyl)cyclopent-2-ene-1-carboxylate | 1.4 g, 22.6% | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@](C1)(C(=O)OC)C(C)(C)O | C15H25NO5
